US07569600B2
A mixture of 5-cyclohex-1-enyl-3-{(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexane-carbonyl)-amino}-thiophene-2-carboxylic acid (20 mg, 0.045 mmol) and methyl (S)-(−)-2-isocyanato −3-methylbutyrate (10 μl, 0.07 mmol) in toluene (1 mL) was stirred at 70° C. for 2 h. It was cooled and water (1 mL) was added. The mixture was stirred at room temperature for one h. It was extracted with EtOAc (50 mL), washed with brine, dried (MgSO4) and evaporated. Pure 5-cyclohex-1-enyl-3-[{trans-4-(1-methoxycarbonyl-2-methyl-propylcarbamoyloxy)-cyclohexyl}-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid was obtained by chromatography over silica gel (hexane-EtOAc mixtures, pure EtOAc and 5% acetone in DCM as eluent) (12.4 mg, 45%).

reactant | 5-cyclohex-1-enyl-3-{(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexane-carbonyl)-amino}-thiophene-2-carboxylic acid | 0.045 mmol, 20 mg | C1(=CCCCC1)C1=CC(=C(S1)C(=O)O)N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)O | C25H35NO4S
reactant | methyl (S)-(−)-2-isocyanato −3-methylbutyrate | 0.07 mmol, 10 μl | N(=C=O)[C@H](C(=O)OC)C(C)C | C7H11NO3
reactant | water | 1 mL | O | H2O
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 5-cyclohex-1-enyl-3-[{trans-4-(1-methoxycarbonyl-2-methyl-propylcarbamoyloxy)-cyclohexyl}-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid | C1(=CCCCC1)C1=CC(=C(S1)C(=O)O)N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)OC(NC(C(C)C)C(=O)OC)=O | C32H46N2O7S
